US07612114B2
4-(2-Azepan-1-ylethyl)benzoic acid hydrochloride
To a suspension of (methoxymethyl)triphenylphosphonium chloride (12.5 g) in tetrahydrofuran (50 ml) was added dropwise potassium tert-butoxide (1.0 M solution in tetrahydrofuran) (40 ml) on an ice bath under a nitrogen atmosphere, and the solution was stirred for 20 minutes, then a solution of 4-formylbenzoic acid methyl ester (5.0 g) in tetrahydrofuran (16 ml) was added dropwise thereto followed by stirring overnight at room temperature. A saturated aqueous solution of ammonium chloride was added thereto followed by stirring. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. Obtained by purifying the residue by NH silica gel column chromatography (hexane-ethyl acetate system), 4-(2-methoxyvinyl)benzoic acid methyl ester (5.2 g) was stirred in dichloromethane (30 ml), to which was added formic acid (20 ml), and the solution was stirred overnight at room temperature. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with a saturated aqueous solution of sodium bicarbonate and brine, and dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo, and 4-(2-oxoethyl)benzoic acid methyl ester (4.6 g). Synthesized from this compound and hexamethyleneimine according to an analogous synthetic method to Example 38 described below, 4-(2-azepan-1-ylethyl)benzoic acid methyl ester (3.7 g) was stirred in methanol (40 ml), to which was added an aqueous solution of 2N sodium hydroxide (20 ml), and the solution was stirred for 1 hour at 80° C. Methanol was evaporated in vacuo, then the solid that was precipitated by the several addition of water and 2N hydrochloric acid was filtered to provide the title compound (3.4 g).

reactant | (methoxymethyl)triphenylphosphonium chloride | 12.5 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 1.0 M, 40 ml | CC(C)([O-])C.[K+]
reactant | 4-formylbenzoic acid methyl ester | 5.0 g | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 4-(2-azepan-1-ylethyl)benzoic acid methyl ester | 3.7 g | COC(C1=CC=C(C=C1)CCN1CCCCCC1)=O | C16H23NO2
reactant | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | methanol | 40 ml | CO | CH4O
product | 4-(2-Azepan-1-ylethyl)benzoic acid hydrochloride | 3.4 g | Cl.N1(CCCCCC1)CCC1=CC=C(C(=O)O)C=C1 | InChI=1S/C15H21NO2.ClH/c17-15(18)14-7-5-13(6-8-14)9-12-16-10-3-1-2-4-11-16;/h5-8H,1-4,9-12H2,(H,17,18);1H
